US08541588B2
2-Chloro-4-(5-chloro-2-methoxyphenyl)pyridine
To a nitrogen purged aqueous solution of sodium carbonate (2M, 14 mL) and ethylene glycol dimethyl ether (25 mL) was added 4-chloro-2-iodoanisole (2.50 g, 0.00931 mol), 2-chloropyridine-4-boronic acid (1.61 g, 0.0102 mol) and bis(triphenylphosphine)palladium (II) dichloride (327 mg, 0.00047 mol). The reaction mixture was warmed to 50° C. and stirred for 5 hours. Following LCMS analysis the reaction was warmed to 75° C. and stirred for 5 hours before cooling to room temperature. The reaction was partitioned between ethyl acetate (100 mL) and a 10% w/v aqueous solution of citric acid (50 mL). The organic layer was washed with water (50 mL), dried over anhydrous magnesium sulphate, filtered and the solvents removed in vacuo to give the crude product as an orange oil (2.95 g). The material was purified using an ISCO™ companion (120 g column, eluting with 100% heptane to 7:3 heptane/ethyl acetate). Fractions containing product were combined and concentrated in vacuo to obtain the title compound as an off white solid (1.10 g).

reactant | sodium carbonate | 2M, 14 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-chloro-2-iodoanisole | 0.00931 mol, 2.50 g | ClC1=CC(=C(C=C1)OC)I | C7H6ClIO
reactant | 2-chloropyridine-4-boronic acid | 0.0102 mol, 1.61 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
catalyst | bis(triphenylphosphine)palladium | 0.00047 mol, 327 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
solvent | ethylene glycol dimethyl ether | 25 mL | COCCOC | C4H10O2
product | 2-Chloro-4-(5-chloro-2-methoxyphenyl)pyridine | ClC1=NC=CC(=C1)C1=C(C=CC(=C1)Cl)OC | C12H9Cl2NO
